US06635771B2
CH3SO2Cl (2 eq) and Et3N (2.5 eq) were added to a solution of methyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-hydroxyethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]benzoate (1 eq) in CH2Cl2 (0.02M) at 0° C. under N2. After 1 hour the reaction was warmed to room temperature. After an additional hour water was added and extracted with CH2Cl2 and washed with brine and dried over sodium sulfate. Removed solvent to obtain methyl 3-(4-{[2-(1-benzhydryl-5-chloro-2-{2-[(methylsulfonyl)oxy]ethyl}-1H-indol-3-yl)ethyl]sulfonyl}phenyl)benzoate (light-yellow solid) in 99% yield.

reactant | CH3SO2Cl | 2 eq | CS(=O)(=O)Cl | CH3ClO2S
reactant | Et3N | 2.5 eq | CCN(CC)CC | C6H15N
reactant | methyl 3-[4-({2-[1-benzhydryl-5-chloro-2-(2-hydroxyethyl)-1H-indol-3-yl]ethyl}sulfonyl)phenyl]benzoate | 1 eq | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)C=1C=C(C(=O)OC)C=CC1)CCO | C39H34ClNO5S
reactant | water | O | H2O
solvent | CH2Cl2 | 0.02M | C(Cl)Cl | CH2Cl2
product | methyl 3-(4-{[2-(1-benzhydryl-5-chloro-2-{2-[(methylsulfonyl)oxy]ethyl}-1H-indol-3-yl)ethyl]sulfonyl}phenyl)benzoate | 99% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=C(C2=CC(=CC=C12)Cl)CCS(=O)(=O)C1=CC=C(C=C1)C=1C=C(C(=O)OC)C=CC1)CCOS(=O)(=O)C | C40H36ClNO7S2
